US04081552
1. 3', 4'-dichloro-4-cyanobutyrophenone O-(2-aminoethyl) oxime hydrochloride
A mixture of 6.9 mmol (1.67 g) of 3', 4'-dichloro-4-cyanobutyrophenone (melting point 53°-54° C), 6.9 mmol (1.03 g) of 2-aminooxyethylamine dihydrochloride, 6.9 mmol (0.56ml) of pyridine and 5 ml of absolute ethanol was refluxed for 3.5 hours.

reactant | 3', 4'-dichloro-4-cyanobutyrophenone | 6.9 mmol, 1.67 g | ClC=1C=C(C=CC1Cl)C(CCCC#N)=O | C11H9Cl2NO
reactant | 2-aminooxyethylamine dihydrochloride | 6.9 mmol, 1.03 g | Cl.Cl.NOCCN
reactant | pyridine | 6.9 mmol, 0.56ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3', 4'-dichloro-4-cyanobutyrophenone O-(2-aminoethyl) oxime hydrochloride | Cl.NCCON=C(CCCC#N)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C13H15Cl2N3O.ClH/c14-11-5-4-10(9-12(11)15)13(3-1-2-6-16)18-19-8-7-17;/h4-5,9H,1-3,7-8,17H2;1H
